US08895544B2
5-Chloro-pyrazine-2-carboxylic acid methyl ester
A mixture of 5-hydroxy-pyrazine-2-carboxylic acid methyl ester (Preparation 40, 50 g, 324 mmol) and POCl3 (500 mL, 5.36 mol) was heated under reflux for 1.5 hours and then poured onto ice. The resulting mixture was extracted with ether (4×500 mL). The organic layers were concentrated in vacuo, and the residue was recrystallised from toluene to give the title compound (30.8 g) in a 55% yield.

reactant | 5-hydroxy-pyrazine-2-carboxylic acid methyl ester | 324 mmol, 50 g | COC(=O)C1=NC=C(N=C1)O | C6H6N2O3
reactant | POCl3 | 5.36 mol, 500 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-pyrazine-2-carboxylic acid methyl ester | 30.8 g, 55% yield | COC(=O)C1=NC=C(N=C1)Cl | C6H5ClN2O2
